*****************************************************************
* NXP BUK9K6R8-40E
*
* Polarity N-Channel
* Ratings 40V/7.200000E-003OHMS/40A
*
* Date Created Tue Jul 02 01:41:49 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K6R8-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 666666666.666667 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0040709044051961 TC=0.00552162259487692,2.03886798436572E-05
RBD 9 4 0.00174368397056234 TC=0.00552162259487692,2.03886798436572E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 1.84210683100019e-09
RG 1 2 1.81504

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	2094.37
+ -10	2090.54
+ -5	2078.34
+ -4	2069.88
+ -3	2042.53
+ -2	1902.61
+ -1	1204.49
+ -0.5	866.645
+ -0.2	678.29
+ -0.1	673.789
+ 0	543.25962
+ 0.1	430.935
+ 0.2	430.5346
+ 0.5	370.03468
+ 1	319.14976
+ 2	268.14568
+ 3	240.56852
+ 4	220.98928
+ 5	205.89032
+ 6	194.84864
+ 8	180.93212
+ 10	172.81828
+ 12	167.38228
+ 15	161.46972
+ 20	153.9208
+ 32	141.3822



.MODEL MINT NMOS(Vto=2.17952202598052 Kp=1.861547e+002 Nfs=500000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=3.44666833106968e-12
+ N=1 M=0.56 VJ=0.61 Fc=0.5 Cjo=1.25556816e-09 Tt=1.2832e-08)

.ENDS

